US07872022B2
c) (−)-(3S,4R)-4-(4-Fluoro-phenyl)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester
A mixture of (+)-(3R,4R)-4-(4-fluoro-phenyl)-piperidine-1,3-dicarboxylic acid 1-tert butyl ester 3-methyl ester (3.55 g, 10.5 mmol) and sodium methoxide (1.14 g, 21.1 mmol) in 100 ml anhydrous toluene was heated at reflux over night. After cooling to room temperature the reaction mixture was quenched with water and concentrated in vacuo. The residue was dissolved in a mixture of 100 ml 1,4-dioxane and 50 ml 2 M aqueous sodium hydroxide solution. After stirring at RT for 5 h the mixture was diluted with water and washed with two portions of tert-butyl methyl ether. The aqueous layer was cooled to 0° C., acidified to pH 1-2 with ice-cold 1 M aqueous hydrochloric acid solution and extracted with three portions of tert-butyl methyl ether. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. Flash column chromatography and crystallization from heptane/ethyl acetate 9:1 (30 ml) gave the title compound as white crystals (1.76 g, 52%, 97.5% ee).

reactant | (+)-(3R,4R)-4-(4-fluoro-phenyl)-piperidine-1,3-dicarboxylic acid 1-tert butyl ester 3-methyl ester | 10.5 mmol, 3.55 g | COC(=O)[C@H]1CN(CC[C@H]1C1=CC=C(C=C1)F)C(=O)OC(C)(C)C | C18H24FNO4
reactant | sodium methoxide | 21.1 mmol, 1.14 g | C[O-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (−)-(3S,4R)-4-(4-Fluoro-phenyl)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester | 1.76 g, 52% | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)C1=CC=C(C=C1)F)C(=O)O | C17H22FNO4
